US06713477B1
Step 1: Ethyl (2S)-2-[2′-(2-bromophenyl)thio-3′-(4-methoxyphenyl)propanoyl]amino-4-methylpentanoate
To a solution of 2-(2-bromophenyl)thio-3-(4-methoxyphenyl)propanoic acid (1.102 g) and L-leucine ethyl ester.HCl (704 mg) in DMF (10 mL), HOBt (551 mg) and EDC.HCl (690 mg) were added. The reaction mixture was stirred at r.t. overnight. The solvent was removed under reduced pressure. The residue was dissolved in EtOAc and washed with 1N HCl, 5% Na2CO3 aq. and brine. The organic layer was dried over Na2SO4 and concentrated to give the pure product as a pale yellow oil (1.561 g, quant.).

reactant | 2-(2-bromophenyl)thio-3-(4-methoxyphenyl)propanoic acid | 1.102 g | BrC1=C(C=CC=C1)SC(C(=O)O)CC1=CC=C(C=C1)OC | C16H15BrO3S
reactant | L-leucine ethyl ester | C(C)OC([C@@H](N)CC(C)C)=O | C8H17NO2
reactant | HCl | 704 mg | Cl | ClH
reactant | HOBt | 551 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 690 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Ethyl (2S)-2-[2′-(2-bromophenyl)thio-3′-(4-methoxyphenyl)propanoyl]amino-4-methylpentanoate | 1.561 g | BrC1=C(C=CC=C1)SC(C(=O)N[C@H](C(=O)OCC)CC(C)C)CC1=CC=C(C=C1)OC | C24H30BrNO4S
